US06521643B1
To a suspension of 3-(4-ethoxypyridin-2-yl)aniline (258 mg), N,N′-bis(tert-butoxycarbonyl)thiourea (399 mg) and diisopropylethyl-amine (0.482 ml) in dichloromethane (12 ml) was added 1-methyl-2-chloropyridinium iodide (400 mg), and the mixture was stirred for 2 hours. The mixture was diluted with ethyl acetate, washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 25 g, n-hexane:ethyl acetate=3:1) to give N,N′-bis(tert-butoxycarbonyl) -N″-(3-(4-ethoxypyridin-2-yl)phenyl)guanidine (389 mg).

reactant | 3-(4-ethoxypyridin-2-yl)aniline | 258 mg | C(C)OC1=CC(=NC=C1)C=1C=C(N)C=CC1 | C13H14N2O
reactant | N,N′-bis(tert-butoxycarbonyl)thiourea | 399 mg | C(C)(C)(C)OC(=O)NC(=S)NC(=O)OC(C)(C)C | C11H20N2O4S
reactant | diisopropylethyl-amine | 0.482 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-methyl-2-chloropyridinium iodide | 400 mg | [I-].C[N+]1=C(C=CC=C1)Cl
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N′-bis(tert-butoxycarbonyl) -N″-(3-(4-ethoxypyridin-2-yl)phenyl)guanidine | 389 mg | C(C)(C)(C)OC(=O)NC(=NC1=CC(=CC=C1)C1=NC=CC(=C1)OCC)NC(=O)OC(C)(C)C | C24H32N4O5
